US08912186B2
By a procedure similar to that of example 1.4, starting from 4-chloro-1,2-phenylenediamine and 3-(4-chloro-3-trifluoromethylphenyl)glutaric anhydride, 4-(5-chloro-2-benzimidazolyl)-3-(4-chloro-3-trifluoromethylphenyl)butanoic acid•HCl was obtained as light greyish solid.

reactant | 4-chloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-(4-chloro-3-trifluoromethylphenyl)glutaric anhydride | ClC1=C(C=C(C=C1)C1CC(=O)OC(C1)=O)C(F)(F)F | C12H8ClF3O3
product | 4-(5-chloro-2-benzimidazolyl)-3-(4-chloro-3-trifluoromethylphenyl)butanoic acid•HCl | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1.Cl | InChI=1S/C18H13Cl2F3N2O2.ClH/c19-11-2-4-14-15(8-11)25-16(24-14)6-10(7-17(26)27)9-1-3-13(20)12(5-9)18(21,22)23;/h1-5,8,10H,6-7H2,(H,24,25)(H,26,27);1H
